US07125865B2
Step 2: Preparation of 5-phenyl-3-(3-{[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]oxy}propyl)dihydropyrimidine-2,4(1H,3H)-dione.
A mixture of 6-(3-chloropropoxy)-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole, prepared as for Example 7 from bromochloropropane, (36 mg, 0.12 mmol), 5-phenyldihydropyrimidine-2,4(1H,3H)-dione, from this Example step 1, (42.5 mg, 0.22 mmol), Cs2CO3 (145.7 mg, 0.45 mmol) and KI (9.3 mg, 0.056 mmol) in dry DMF was stirred at room temperature overnight. The reaction mixture was diluted with water and partitioned between ethyl acetate and water. Combined organic extracts were washed with water and brine, dried over Na2SO4 and the solvent evaporated in vacuo. The product was purified by HPLC using 30% to 70% gradient CH3CN:H2O).

reactant | 6-(3-chloropropoxy)-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole | ClCCCOC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC | C14H15ClF3NO2
reactant | bromochloropropane | 0.12 mmol, 36 mg | BrC(CC)Cl | C3H6BrCl
reactant | 5-phenyldihydropyrimidine-2,4(1H,3H)-dione | C1(=CC=CC=C1)C1C(NC(NC1)=O)=O | C10H10N2O2
reactant | Cs2CO3 | 0.22 mmol, 42.5 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-phenyl-3-(3-{[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]oxy}propyl)dihydropyrimidine-2,4(1H,3H)-dione | C1(=CC=CC=C1)C1C(N(C(NC1)=O)CCCOC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC)=O | C24H24F3N3O4
